US05961960
2-(1-(2-Ethylhexyl)-benzimidazol-2-yl)-benzoxazole (Route B)
28.2 g (0.12 mol) of 1-(2-ethylhexyl)-2-trichloromethylbenzimidazole (prepared by reacting N-2-ethylhexyl-o-phenylenediamine with trichloroacetamido methyl ester), 13.1 g (0.12 mot) of o-aminophenol and 39.4 g (0.38 mot) of triethylamine in 150 ml of ethanol are stirred at room temperature for 15 hours. The ethanol is subsequently removed on a rotary evaporator, ethyl acetate is added to the residue which remains, and the mixture is washed with water and dried over sodium sulfate. 35% of product is identified by BPLC in the product mixture thus ob-5 tained; isolation can be carried out, for example, by column chromatography.

reactant | 1-(2-ethylhexyl)-2-trichloromethylbenzimidazole | 0.12 mol, 28.2 g | C(C)C(CN1C(=NC2=C1C=CC=C2)C(Cl)(Cl)Cl)CCCC | C16H21Cl3N2
reactant | o-aminophenol | 13.1 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 39.4 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(1-(2-Ethylhexyl)-benzimidazol-2-yl)-benzoxazole | C(C)C(CN1C(=NC2=C1C=CC=C2)C=2OC1=C(N2)C=CC=C1)CCCC | C22H25N3O
